US04630896
7.0 g of p-[4-[2-(p-pentylphenyl)vinyl]cyclohexyl]benzonitrile were dissolved in 350 ml of toluene, treated with 1.4 g of palladium/carbon (10%) and hydrogenated at room temperature and normal pressure until the hydrogen uptake came to a standstill. The crude p-[trans-4-[2-(p-pentylphenyl)ethyl]cyclohexyl]benzonitrile obtained after filtering off the catalyst and concentrating the filtrate was recrystallized twice from ethanol. Yield 4.2 g; m.p. (C--N) 61.5° C., cl.p. (N--I) 126° C.

reactant | p-[4-[2-(p-pentylphenyl)vinyl]cyclohexyl]benzonitrile | 7.0 g | C(CCCC)C1=CC=C(C=C1)C=CC1CCC(CC1)C1=CC=C(C#N)C=C1 | C26H31N
reactant | hydrogen | [H][H] | H2
solvent | toluene | 350 ml | C1(=CC=CC=C1)C | C7H8
catalyst | palladium/carbon | 1.4 g | [Pd] | Pd
product | p-[trans-4-[2-(p-pentylphenyl)ethyl]cyclohexyl]benzonitrile | C(CCCC)C1=CC=C(C=C1)CC[C@@H]1CC[C@H](CC1)C1=CC=C(C#N)C=C1 | C26H33N
